US06596729B2
To a solution of 4.6 mL diisopropylamine in 40 mL of dry THF at −20° C. was added dropwise first 12.0 ml of 2.5 M butyllithium and then 8.1 ml of tributyltinhydride. After 10 min this solution was cooled to −78° C., and 3.25 g of chloromethyl isopropyl ether (Molina et al, 1982 Synthesis, 944) was added dropwise. After 10 min the cooling bath was removed and the reaction mixture was stirred at ambient temperature for 1.5 h. The mixture was poured onto water and extracted with hexanes and the extracts were dried over sodium sulfate and evaporated. The crude product was distilled (0.2 mm, 110-130° C.) to afford 7.8 g of tributyl (isopropoxymethyl)tin as a colorless liquid.

reactant | diisopropylamine | 4.6 mL | C(C)(C)NC(C)C | C6H15N
reactant | butyllithium | 2.5 M, 12.0 ml | C(CCC)[Li]
reactant | tributyltinhydride | 8.1 ml | C(CCC)[SnH](CCCC)CCCC
reactant | chloromethyl isopropyl ether | 3.25 g | C(C)(C)OCCl | C4H9ClO
solvent | THF | 40 mL | C1CCOC1 | C4H8O
product | tributyl (isopropoxymethyl)tin | 7.8 g | C(CCC)[Sn](COC(C)C)(CCCC)CCCC | InChI=1S/C4H9O.3C4H9.Sn/c1-4(2)5-3;3*1-3-4-2;/h4H,3H2,1-2H3;3*1,3-4H2,2H3;
